US06727256B1
4-Chloro-6-iodo-7-fluoro-quinazoline Hydrochloride
Thionyl chloride (0.6 liters), 4-hydroxy-6-iodo-7-fluoro-quinazoline (36 grams, 124 mmoles), and dimethylformamide (6 ml) were combined in a one liter one-neck flask fitted with a magnetic stir bar. The mixture was placed under anhydrous nitrogen and heated to a gentle reflux for 24 hours. The mixture was allowed to cool, followed by concentrating the reaction mixture to a thick yellowish residue. To this residue was added dichloromethane (0.1 liter) and toluene (0.1 liter). The mixture was concentrated to dryness. This procedure was repeated two additional times. To the resulting solid was added 0.5 liters of dry dichloromethane and the mixture was stirred for one hour. The mixture was filtered and the remaining solids were washed with minimal dichloromethane. The dichoromethane filtrates were combined, concentrated to a solid, and dried under vacuum at room temperature to yield 28.6 grams (67%) of the title compound. 1H NMR (400 MHz, CDCl3-d1) δ: 9.03(s, 1H), 8.76(d, 1H), 7.69(d, 1H). ESI-MS m/z 309(M+1).

reactant | Thionyl chloride | 0.6 liters | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-6-iodo-7-fluoro-quinazoline | 124 mmoles, 36 grams | OC1=NC=NC2=CC(=C(C=C12)I)F | C8H4FIN2O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-6-iodo-7-fluoro-quinazoline Hydrochloride | 28.6 grams, 67% | Cl.ClC1=NC=NC2=CC(=C(C=C12)I)F | InChI=1S/C8H3ClFIN2.ClH/c9-8-4-1-6(11)5(10)2-7(4)12-3-13-8;/h1-3H;1H
